US06303600B1
Methyl-8-methoxy-2-n-propylquinoline-5-carboxylate
Methyl-3-amino-4-methoxybenzoate (10.0 g) was treated with concentrated hydrochloric acid (14 ml) and n-butanol (10 ml), under nitrogen, with stirring. The stirred mixture was treated with p-chloranil (13.65 g) and then heated at reflux whilst a mixture of trans-2-hexanal (8 ml) and n-butanol (5 ml) was added dropwise over 2 hours using a syringe pump. After heating at reflux for a further 30 minutes the mixture was treated with a solution of anhydrous zinc chloride (7.52 g) in tetrahydrofuran (60 ml), then allowed to cool slowly to room temperature and then cooled to 0° C. for 18 hours. The reaction mixture was evaporated, then diluted with hydrochloric acid (1M) and then washed with diethyl ether. The pH of the solution was adjusted to 6 and the resulting emulsion was treated with ammonium hydroxide and the solution extracted with diethyl ether. The combined dark green extracts were dried over magnesium sulphate then evaporated. The resulting dark green oil was subjected to flash chromatography on silica eluting with a mixture of ethyl acetate and pentane (3:7, v/v) to give the title compound (1.5 g) as an orange oil. NMR(CDCl3): δ9.36(d,J=8.9 Hz,1 H), 8.26(d,J=8.4 Hz,1 H), 7.47(d,J=8.9 Hz,1 H), 7.03(d,J=8.4 Hz,1 H), 4.14(s,3 H), 3.97(s,3 H), 3.02(m,2 H), 1.86(m,2 H), 1.03(t,J=7.3 Hz,3 H).

reactant | Methyl-3-amino-4-methoxybenzoate | 10.0 g | COC(C1=CC(=C(C=C1)OC)N)=O | C9H11NO3
reactant | hydrochloric acid | 14 ml | Cl | ClH
reactant | n-butanol | 10 ml | C(CCC)O | C4H10O
reactant | p-chloranil | 13.65 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
reactant | n-butanol | 5 ml | C(CCC)O | C4H10O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
catalyst | zinc chloride | 7.52 g | [Cl-].[Zn+2].[Cl-]
product | Methyl-8-methoxy-2-n-propylquinoline-5-carboxylate | 1.5 g | COC(=O)C=1C=2C=CC(=NC2C(=CC1)OC)CCC | C15H17NO3
